US05171851
Preparation of 2-amino-3-cyano-5-(4-methylimidazol-1-yl)toluene
A mixture of 2-amino-3-iodo-5-(4-methylimidazol-1-yl)toluene (391 mg), potassium cyanide (130 mg), PD(OCA) (catalytic amount) and dimethylformaldehyde (4.01 ml) was heated under stirring under nitrogen atmosphere for 3 days. Solvent was removed to give a residue. To the residue was added water and the solution was extracted with chloroform. The extract was dried with MgSO and solvent was removed to give 175 mg (66%) of the title compound.

reactant | 2-amino-3-iodo-5-(4-methylimidazol-1-yl)toluene | 391 mg | NC1=C(C=C(C=C1I)N1C=NC(=C1)C)C | C11H12IN3
reactant | potassium cyanide | 130 mg | [C-]#N.[K+]
reactant | dimethylformaldehyde | 4.01 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 2-amino-3-cyano-5-(4-methylimidazol-1-yl)toluene | 175 mg, 66% | NC1=C(C=C(C=C1C#N)N1C=NC(=C1)C)C | C12H12N4
